* source PCB_ASSIGN2
X_BIT6_FA_U1B         N00813 BIT6_FA_N00372 BIT6_FA_N00431 $G_DPWR $G_DGND 7408
+  PARAMS:
+ IO_LEVEL=0 MNTYMXDLY=0
X_BIT6_FA_U3B         N00813 BIT6_FA_N00372 BIT6_N00601 $G_DPWR $G_DGND 7486
+  PARAMS:
+ IO_LEVEL=0 MNTYMXDLY=0
X_BIT6_FA_U2A         BIT6_FA_N00431 BIT6_FA_N00455 N00507 $G_DPWR $G_DGND 7432
+  PARAMS:
+ IO_LEVEL=0 MNTYMXDLY=0
X_BIT6_FA_U3A         BIT6_N00776 N00493 BIT6_FA_N00372 $G_DPWR $G_DGND 7486
+  PARAMS:
+ IO_LEVEL=0 MNTYMXDLY=0
X_BIT6_FA_U1A         N00493 BIT6_N00776 BIT6_FA_N00455 $G_DPWR $G_DGND 7408
+  PARAMS:
+ IO_LEVEL=0 MNTYMXDLY=0
X_BIT6_U2A         N00817 OP2 BIT6_N00776 $G_DPWR $G_DGND 7486 PARAMS:
+ IO_LEVEL=0 MNTYMXDLY=0
X_BIT6_U4         0 0 OP0 OP1 BIT6_N00764 BIT6_N00625 BIT6_N00601 0 0 0 0 0
+  OUPUT6 M_UN0001 $G_DPWR $G_DGND 74153 PARAMS:
+ IO_LEVEL=0 MNTYMXDLY=0
X_BIT6_U3A         N00813 N00817 BIT6_N00625 $G_DPWR $G_DGND 7432 PARAMS:
+ IO_LEVEL=0 MNTYMXDLY=0
X_BIT6_U1A         N00813 N00817 BIT6_N00764 $G_DPWR $G_DGND 7408 PARAMS:
+ IO_LEVEL=0 MNTYMXDLY=0
U_DSTM12         STIM(1,0) $G_DPWR $G_DGND N00809 IO_STM STIMULUS=b5
U_DSTM9         STIM(1,0) $G_DPWR $G_DGND N00797 IO_STM STIMULUS=a4
X_BIT5_FA_U1B         N00805 BIT5_FA_N00372 BIT5_FA_N00431 $G_DPWR $G_DGND 7408
+  PARAMS:
+ IO_LEVEL=0 MNTYMXDLY=0
X_BIT5_FA_U3B         N00805 BIT5_FA_N00372 BIT5_N00601 $G_DPWR $G_DGND 7486
+  PARAMS:
+ IO_LEVEL=0 MNTYMXDLY=0
X_BIT5_FA_U2A         BIT5_FA_N00431 BIT5_FA_N00455 N00493 $G_DPWR $G_DGND 7432
+  PARAMS:
+ IO_LEVEL=0 MNTYMXDLY=0
X_BIT5_FA_U3A         BIT5_N00776 N00479 BIT5_FA_N00372 $G_DPWR $G_DGND 7486
+  PARAMS:
+ IO_LEVEL=0 MNTYMXDLY=0
X_BIT5_FA_U1A         N00479 BIT5_N00776 BIT5_FA_N00455 $G_DPWR $G_DGND 7408
+  PARAMS:
+ IO_LEVEL=0 MNTYMXDLY=0
X_BIT5_U2A         N00809 OP2 BIT5_N00776 $G_DPWR $G_DGND 7486 PARAMS:
+ IO_LEVEL=0 MNTYMXDLY=0
X_BIT5_U4         0 0 OP0 OP1 BIT5_N00764 BIT5_N00625 BIT5_N00601 0 0 0 0 0
+  OUPUT5 M_UN0002 $G_DPWR $G_DGND 74153 PARAMS:
+ IO_LEVEL=0 MNTYMXDLY=0
X_BIT5_U3A         N00805 N00809 BIT5_N00625 $G_DPWR $G_DGND 7432 PARAMS:
+ IO_LEVEL=0 MNTYMXDLY=0
X_BIT5_U1A         N00805 N00809 BIT5_N00764 $G_DPWR $G_DGND 7408 PARAMS:
+ IO_LEVEL=0 MNTYMXDLY=0
U_DSTM5         STIM(1,0) $G_DPWR $G_DGND N00781 IO_STM STIMULUS=a2
X_BIT4_FA_U1B         N00797 BIT4_FA_N00372 BIT4_FA_N00431 $G_DPWR $G_DGND 7408
+  PARAMS:
+ IO_LEVEL=0 MNTYMXDLY=0
X_BIT4_FA_U3B         N00797 BIT4_FA_N00372 BIT4_N00601 $G_DPWR $G_DGND 7486
+  PARAMS:
+ IO_LEVEL=0 MNTYMXDLY=0
X_BIT4_FA_U2A         BIT4_FA_N00431 BIT4_FA_N00455 N00479 $G_DPWR $G_DGND 7432
+  PARAMS:
+ IO_LEVEL=0 MNTYMXDLY=0
X_BIT4_FA_U3A         BIT4_N00776 N00461 BIT4_FA_N00372 $G_DPWR $G_DGND 7486
+  PARAMS:
+ IO_LEVEL=0 MNTYMXDLY=0
X_BIT4_FA_U1A         N00461 BIT4_N00776 BIT4_FA_N00455 $G_DPWR $G_DGND 7408
+  PARAMS:
+ IO_LEVEL=0 MNTYMXDLY=0
X_BIT4_U2A         N00801 OP2 BIT4_N00776 $G_DPWR $G_DGND 7486 PARAMS:
+ IO_LEVEL=0 MNTYMXDLY=0
X_BIT4_U4         0 0 OP0 OP1 BIT4_N00764 BIT4_N00625 BIT4_N00601 0 0 0 0 0
+  OUPUT4 M_UN0003 $G_DPWR $G_DGND 74153 PARAMS:
+ IO_LEVEL=0 MNTYMXDLY=0
X_BIT4_U3A         N00797 N00801 BIT4_N00625 $G_DPWR $G_DGND 7432 PARAMS:
+ IO_LEVEL=0 MNTYMXDLY=0
X_BIT4_U1A         N00797 N00801 BIT4_N00764 $G_DPWR $G_DGND 7408 PARAMS:
+ IO_LEVEL=0 MNTYMXDLY=0
X_BIT3_FA_U1B         N00789 BIT3_FA_N00372 BIT3_FA_N00431 $G_DPWR $G_DGND 7408
+  PARAMS:
+ IO_LEVEL=0 MNTYMXDLY=0
X_BIT3_FA_U3B         N00789 BIT3_FA_N00372 BIT3_N00601 $G_DPWR $G_DGND 7486
+  PARAMS:
+ IO_LEVEL=0 MNTYMXDLY=0
X_BIT3_FA_U2A         BIT3_FA_N00431 BIT3_FA_N00455 N00461 $G_DPWR $G_DGND 7432
+  PARAMS:
+ IO_LEVEL=0 MNTYMXDLY=0
X_BIT3_FA_U3A         BIT3_N00776 N00449 BIT3_FA_N00372 $G_DPWR $G_DGND 7486
+  PARAMS:
+ IO_LEVEL=0 MNTYMXDLY=0
X_BIT3_FA_U1A         N00449 BIT3_N00776 BIT3_FA_N00455 $G_DPWR $G_DGND 7408
+  PARAMS:
+ IO_LEVEL=0 MNTYMXDLY=0
X_BIT3_U2A         N00793 OP2 BIT3_N00776 $G_DPWR $G_DGND 7486 PARAMS:
+ IO_LEVEL=0 MNTYMXDLY=0
X_BIT3_U4         0 0 OP0 OP1 BIT3_N00764 BIT3_N00625 BIT3_N00601 0 0 0 0 0
+  OUPUT3 M_UN0004 $G_DPWR $G_DGND 74153 PARAMS:
+ IO_LEVEL=0 MNTYMXDLY=0
X_BIT3_U3A         N00789 N00793 BIT3_N00625 $G_DPWR $G_DGND 7432 PARAMS:
+ IO_LEVEL=0 MNTYMXDLY=0
X_BIT3_U1A         N00789 N00793 BIT3_N00764 $G_DPWR $G_DGND 7408 PARAMS:
+ IO_LEVEL=0 MNTYMXDLY=0
U_DSTM7         STIM(1,0) $G_DPWR $G_DGND N00789 IO_STM STIMULUS=a3
U_DSTM16         STIM(1,0) $G_DPWR $G_DGND N00825 IO_STM STIMULUS=b7
X_BIT2_FA_U1B         N00781 BIT2_FA_N00372 BIT2_FA_N00431 $G_DPWR $G_DGND 7408
+  PARAMS:
+ IO_LEVEL=0 MNTYMXDLY=0
X_BIT2_FA_U3B         N00781 BIT2_FA_N00372 BIT2_N00601 $G_DPWR $G_DGND 7486
+  PARAMS:
+ IO_LEVEL=0 MNTYMXDLY=0
X_BIT2_FA_U2A         BIT2_FA_N00431 BIT2_FA_N00455 N00449 $G_DPWR $G_DGND 7432
+  PARAMS:
+ IO_LEVEL=0 MNTYMXDLY=0
X_BIT2_FA_U3A         BIT2_N00776 N01557 BIT2_FA_N00372 $G_DPWR $G_DGND 7486
+  PARAMS:
+ IO_LEVEL=0 MNTYMXDLY=0
X_BIT2_FA_U1A         N01557 BIT2_N00776 BIT2_FA_N00455 $G_DPWR $G_DGND 7408
+  PARAMS:
+ IO_LEVEL=0 MNTYMXDLY=0
X_BIT2_U2A         N00785 OP2 BIT2_N00776 $G_DPWR $G_DGND 7486 PARAMS:
+ IO_LEVEL=0 MNTYMXDLY=0
X_BIT2_U4         0 0 OP0 OP1 BIT2_N00764 BIT2_N00625 BIT2_N00601 0 0 0 0 0
+  OUPUT2 M_UN0005 $G_DPWR $G_DGND 74153 PARAMS:
+ IO_LEVEL=0 MNTYMXDLY=0
X_BIT2_U3A         N00781 N00785 BIT2_N00625 $G_DPWR $G_DGND 7432 PARAMS:
+ IO_LEVEL=0 MNTYMXDLY=0
X_BIT2_U1A         N00781 N00785 BIT2_N00764 $G_DPWR $G_DGND 7408 PARAMS:
+ IO_LEVEL=0 MNTYMXDLY=0
U_DSTM3         STIM(1,0) $G_DPWR $G_DGND N00773 IO_STM STIMULUS=a1
X_BIT7_FA_U1B         N00821 BIT7_FA_N00372 BIT7_FA_N00431 $G_DPWR $G_DGND 7408
+  PARAMS:
+ IO_LEVEL=0 MNTYMXDLY=0
X_BIT7_FA_U3B         N00821 BIT7_FA_N00372 MSB_SET $G_DPWR $G_DGND 7486
+  PARAMS:
+ IO_LEVEL=0 MNTYMXDLY=0
X_BIT7_FA_U2A         BIT7_FA_N00431 BIT7_FA_N00455 CARRY $G_DPWR $G_DGND 7432
+  PARAMS:
+ IO_LEVEL=0 MNTYMXDLY=0
X_BIT7_FA_U3A         BIT7_N01709 N00507 BIT7_FA_N00372 $G_DPWR $G_DGND 7486
+  PARAMS:
+ IO_LEVEL=0 MNTYMXDLY=0
X_BIT7_FA_U1A         N00507 BIT7_N01709 BIT7_FA_N00455 $G_DPWR $G_DGND 7408
+  PARAMS:
+ IO_LEVEL=0 MNTYMXDLY=0
X_BIT7_U3A         N00821 N00825 BIT7_N01527 $G_DPWR $G_DGND 7432 PARAMS:
+ IO_LEVEL=0 MNTYMXDLY=0
X_BIT7_U4         0 0 OP2 OP1 BIT7_N01393 BIT7_N01527 MSB_SET 0 0 0 0 0 OUPUT7
+  M_UN0006 $G_DPWR $G_DGND 74153 PARAMS:
+ IO_LEVEL=0 MNTYMXDLY=0
X_BIT7_U2A         N00825 OP0 BIT7_N01709 $G_DPWR $G_DGND 7486 PARAMS:
+ IO_LEVEL=0 MNTYMXDLY=0
X_BIT7_U1A         N00821 N00825 BIT7_N01393 $G_DPWR $G_DGND 7408 PARAMS:
+ IO_LEVEL=0 MNTYMXDLY=0
X_BIT7_U5A         N00507 MSB_SET OVERFLOW $G_DPWR $G_DGND 7486 PARAMS:
+ IO_LEVEL=0 MNTYMXDLY=0
X_BIT1_FA_U1B         N00773 BIT1_FA_N00372 BIT1_FA_N00431 $G_DPWR $G_DGND 7408
+  PARAMS:
+ IO_LEVEL=0 MNTYMXDLY=0
X_BIT1_FA_U3B         N00773 BIT1_FA_N00372 BIT1_N00601 $G_DPWR $G_DGND 7486
+  PARAMS:
+ IO_LEVEL=0 MNTYMXDLY=0
X_BIT1_FA_U2A         BIT1_FA_N00431 BIT1_FA_N00455 N01557 $G_DPWR $G_DGND 7432
+  PARAMS:
+ IO_LEVEL=0 MNTYMXDLY=0
X_BIT1_FA_U3A         BIT1_N00776 N00397 BIT1_FA_N00372 $G_DPWR $G_DGND 7486
+  PARAMS:
+ IO_LEVEL=0 MNTYMXDLY=0
X_BIT1_FA_U1A         N00397 BIT1_N00776 BIT1_FA_N00455 $G_DPWR $G_DGND 7408
+  PARAMS:
+ IO_LEVEL=0 MNTYMXDLY=0
X_BIT1_U2A         N00777 OP2 BIT1_N00776 $G_DPWR $G_DGND 7486 PARAMS:
+ IO_LEVEL=0 MNTYMXDLY=0
X_BIT1_U4         0 0 OP0 OP1 BIT1_N00764 BIT1_N00625 BIT1_N00601 0 0 0 0 0
+  OUPUT1 M_UN0007 $G_DPWR $G_DGND 74153 PARAMS:
+ IO_LEVEL=0 MNTYMXDLY=0
X_BIT1_U3A         N00773 N00777 BIT1_N00625 $G_DPWR $G_DGND 7432 PARAMS:
+ IO_LEVEL=0 MNTYMXDLY=0
X_BIT1_U1A         N00773 N00777 BIT1_N00764 $G_DPWR $G_DGND 7408 PARAMS:
+ IO_LEVEL=0 MNTYMXDLY=0
X_BIT0_FA_U1B         N00765 BIT0_FA_N00372 BIT0_FA_N00431 $G_DPWR $G_DGND 7408
+  PARAMS:
+ IO_LEVEL=0 MNTYMXDLY=0
X_BIT0_FA_U3B         N00765 BIT0_FA_N00372 BIT0_N00601 $G_DPWR $G_DGND 7486
+  PARAMS:
+ IO_LEVEL=0 MNTYMXDLY=0
X_BIT0_FA_U2A         BIT0_FA_N00431 BIT0_FA_N00455 N00397 $G_DPWR $G_DGND 7432
+  PARAMS:
+ IO_LEVEL=0 MNTYMXDLY=0
X_BIT0_FA_U3A         BIT0_N00776 OP2 BIT0_FA_N00372 $G_DPWR $G_DGND 7486
+  PARAMS:
+ IO_LEVEL=0 MNTYMXDLY=0
X_BIT0_FA_U1A         OP2 BIT0_N00776 BIT0_FA_N00455 $G_DPWR $G_DGND 7408
+  PARAMS:
+ IO_LEVEL=0 MNTYMXDLY=0
X_BIT0_U2A         N00769 OP2 BIT0_N00776 $G_DPWR $G_DGND 7486 PARAMS:
+ IO_LEVEL=0 MNTYMXDLY=0
X_BIT0_U4         0 0 OP0 OP1 BIT0_N00764 BIT0_N00625 BIT0_N00601 MSB_SET 0 0 0
+  0 OUPUT0 M_UN0008 $G_DPWR $G_DGND 74153 PARAMS:
+ IO_LEVEL=0 MNTYMXDLY=0
X_BIT0_U3A         N00765 N00769 BIT0_N00625 $G_DPWR $G_DGND 7432 PARAMS:
+ IO_LEVEL=0 MNTYMXDLY=0
X_BIT0_U1A         N00765 N00769 BIT0_N00764 $G_DPWR $G_DGND 7408 PARAMS:
+ IO_LEVEL=0 MNTYMXDLY=0
U_DSTM10         STIM(1,0) $G_DPWR $G_DGND N00801 IO_STM STIMULUS=b4
U_DSTM13         STIM(1,0) $G_DPWR $G_DGND N00813 IO_STM STIMULUS=a6
U_DSTM1         STIM(1,0) $G_DPWR $G_DGND N00765 IO_STM STIMULUS=a0
U_DSTM8         STIM(1,0) $G_DPWR $G_DGND N00793 IO_STM STIMULUS=b3
U_DSTM19         STIM(1,0) $G_DPWR $G_DGND OP2 IO_STM STIMULUS=op2clk
U_DSTM14         STIM(1,0) $G_DPWR $G_DGND N00817 IO_STM STIMULUS=b6
U_DSTM4         STIM(1,0) $G_DPWR $G_DGND N00777 IO_STM STIMULUS=b1
U_DSTM18         STIM(1,0) $G_DPWR $G_DGND OP1 IO_STM STIMULUS=op1clk
U_DSTM6         STIM(1,0) $G_DPWR $G_DGND N00785 IO_STM STIMULUS=b2
U_DSTM11         STIM(1,0) $G_DPWR $G_DGND N00805 IO_STM STIMULUS=a5
U_DSTM2         STIM(1,0) $G_DPWR $G_DGND N00769 IO_STM STIMULUS=b0
U_DSTM17         STIM(1,0) $G_DPWR $G_DGND OP0 IO_STM STIMULUS=op0clk
U_DSTM15         STIM(1,0) $G_DPWR $G_DGND N00821 IO_STM STIMULUS=a7
