* source PCB_ASSIGN2
X_BIT6_FA_U1B         A6 BIT6_FA_N00372 BIT6_FA_N00431 $G_DPWR $G_DGND 7408
+  PARAMS:
+ IO_LEVEL=0 MNTYMXDLY=0
X_BIT6_FA_U3B         A6 BIT6_FA_N00372 BIT6_N00601 $G_DPWR $G_DGND 7486
+  PARAMS:
+ IO_LEVEL=0 MNTYMXDLY=0
X_BIT6_FA_U2A         BIT6_FA_N00431 BIT6_FA_N00455 N00507 $G_DPWR $G_DGND 7432
+  PARAMS:
+ IO_LEVEL=0 MNTYMXDLY=0
X_BIT6_FA_U3A         BIT6_N00776 N00493 BIT6_FA_N00372 $G_DPWR $G_DGND 7486
+  PARAMS:
+ IO_LEVEL=0 MNTYMXDLY=0
X_BIT6_FA_U1A         N00493 BIT6_N00776 BIT6_FA_N00455 $G_DPWR $G_DGND 7408
+  PARAMS:
+ IO_LEVEL=0 MNTYMXDLY=0
X_BIT6_U2A         B6 OP2 BIT6_N00776 $G_DPWR $G_DGND 7486 PARAMS:
+ IO_LEVEL=0 MNTYMXDLY=0
X_BIT6_U4         0 0 OP0 OP1 BIT6_N00764 BIT6_N00625 BIT6_N00601 0 0 0 0 0
+  OUTPUT6 M_UN0001 $G_DPWR $G_DGND 74153 PARAMS:
+ IO_LEVEL=0 MNTYMXDLY=0
X_BIT6_U3A         A6 B6 BIT6_N00625 $G_DPWR $G_DGND 7432 PARAMS:
+ IO_LEVEL=0 MNTYMXDLY=0
X_BIT6_U1A         A6 B6 BIT6_N00764 $G_DPWR $G_DGND 7408 PARAMS:
+ IO_LEVEL=0 MNTYMXDLY=0
U_DSTM12         STIM(1,0) $G_DPWR $G_DGND B5 IO_STM STIMULUS=b5
U_DSTM9         STIM(1,0) $G_DPWR $G_DGND A4 IO_STM STIMULUS=a4
X_BIT5_FA_U1B         A5 BIT5_FA_N00372 BIT5_FA_N00431 $G_DPWR $G_DGND 7408
+  PARAMS:
+ IO_LEVEL=0 MNTYMXDLY=0
X_BIT5_FA_U3B         A5 BIT5_FA_N00372 BIT5_N00601 $G_DPWR $G_DGND 7486
+  PARAMS:
+ IO_LEVEL=0 MNTYMXDLY=0
X_BIT5_FA_U2A         BIT5_FA_N00431 BIT5_FA_N00455 N00493 $G_DPWR $G_DGND 7432
+  PARAMS:
+ IO_LEVEL=0 MNTYMXDLY=0
X_BIT5_FA_U3A         BIT5_N00776 N00479 BIT5_FA_N00372 $G_DPWR $G_DGND 7486
+  PARAMS:
+ IO_LEVEL=0 MNTYMXDLY=0
X_BIT5_FA_U1A         N00479 BIT5_N00776 BIT5_FA_N00455 $G_DPWR $G_DGND 7408
+  PARAMS:
+ IO_LEVEL=0 MNTYMXDLY=0
X_BIT5_U2A         B5 OP2 BIT5_N00776 $G_DPWR $G_DGND 7486 PARAMS:
+ IO_LEVEL=0 MNTYMXDLY=0
X_BIT5_U4         0 0 OP0 OP1 BIT5_N00764 BIT5_N00625 BIT5_N00601 0 0 0 0 0
+  OUTPUT5 M_UN0002 $G_DPWR $G_DGND 74153 PARAMS:
+ IO_LEVEL=0 MNTYMXDLY=0
X_BIT5_U3A         A5 B5 BIT5_N00625 $G_DPWR $G_DGND 7432 PARAMS:
+ IO_LEVEL=0 MNTYMXDLY=0
X_BIT5_U1A         A5 B5 BIT5_N00764 $G_DPWR $G_DGND 7408 PARAMS:
+ IO_LEVEL=0 MNTYMXDLY=0
U_DSTM5         STIM(1,0) $G_DPWR $G_DGND A2 IO_STM STIMULUS=a2
X_BIT4_FA_U1B         A4 BIT4_FA_N00372 BIT4_FA_N00431 $G_DPWR $G_DGND 7408
+  PARAMS:
+ IO_LEVEL=0 MNTYMXDLY=0
X_BIT4_FA_U3B         A4 BIT4_FA_N00372 BIT4_N00601 $G_DPWR $G_DGND 7486
+  PARAMS:
+ IO_LEVEL=0 MNTYMXDLY=0
X_BIT4_FA_U2A         BIT4_FA_N00431 BIT4_FA_N00455 N00479 $G_DPWR $G_DGND 7432
+  PARAMS:
+ IO_LEVEL=0 MNTYMXDLY=0
X_BIT4_FA_U3A         BIT4_N00776 N00461 BIT4_FA_N00372 $G_DPWR $G_DGND 7486
+  PARAMS:
+ IO_LEVEL=0 MNTYMXDLY=0
X_BIT4_FA_U1A         N00461 BIT4_N00776 BIT4_FA_N00455 $G_DPWR $G_DGND 7408
+  PARAMS:
+ IO_LEVEL=0 MNTYMXDLY=0
X_BIT4_U2A         B4 OP2 BIT4_N00776 $G_DPWR $G_DGND 7486 PARAMS:
+ IO_LEVEL=0 MNTYMXDLY=0
X_BIT4_U4         0 0 OP0 OP1 BIT4_N00764 BIT4_N00625 BIT4_N00601 0 0 0 0 0
+  OUTPUT4 M_UN0003 $G_DPWR $G_DGND 74153 PARAMS:
+ IO_LEVEL=0 MNTYMXDLY=0
X_BIT4_U3A         A4 B4 BIT4_N00625 $G_DPWR $G_DGND 7432 PARAMS:
+ IO_LEVEL=0 MNTYMXDLY=0
X_BIT4_U1A         A4 B4 BIT4_N00764 $G_DPWR $G_DGND 7408 PARAMS:
+ IO_LEVEL=0 MNTYMXDLY=0
X_BIT3_FA_U1B         A3 BIT3_FA_N00372 BIT3_FA_N00431 $G_DPWR $G_DGND 7408
+  PARAMS:
+ IO_LEVEL=0 MNTYMXDLY=0
X_BIT3_FA_U3B         A3 BIT3_FA_N00372 BIT3_N00601 $G_DPWR $G_DGND 7486
+  PARAMS:
+ IO_LEVEL=0 MNTYMXDLY=0
X_BIT3_FA_U2A         BIT3_FA_N00431 BIT3_FA_N00455 N00461 $G_DPWR $G_DGND 7432
+  PARAMS:
+ IO_LEVEL=0 MNTYMXDLY=0
X_BIT3_FA_U3A         BIT3_N00776 N00449 BIT3_FA_N00372 $G_DPWR $G_DGND 7486
+  PARAMS:
+ IO_LEVEL=0 MNTYMXDLY=0
X_BIT3_FA_U1A         N00449 BIT3_N00776 BIT3_FA_N00455 $G_DPWR $G_DGND 7408
+  PARAMS:
+ IO_LEVEL=0 MNTYMXDLY=0
X_BIT3_U2A         B3 OP2 BIT3_N00776 $G_DPWR $G_DGND 7486 PARAMS:
+ IO_LEVEL=0 MNTYMXDLY=0
X_BIT3_U4         0 0 OP0 OP1 BIT3_N00764 BIT3_N00625 BIT3_N00601 0 0 0 0 0
+  OUTPUT3 M_UN0004 $G_DPWR $G_DGND 74153 PARAMS:
+ IO_LEVEL=0 MNTYMXDLY=0
X_BIT3_U3A         A3 B3 BIT3_N00625 $G_DPWR $G_DGND 7432 PARAMS:
+ IO_LEVEL=0 MNTYMXDLY=0
X_BIT3_U1A         A3 B3 BIT3_N00764 $G_DPWR $G_DGND 7408 PARAMS:
+ IO_LEVEL=0 MNTYMXDLY=0
U_DSTM7         STIM(1,0) $G_DPWR $G_DGND A3 IO_STM STIMULUS=a3
U_DSTM16         STIM(1,0) $G_DPWR $G_DGND B7 IO_STM STIMULUS=b7
X_BIT2_FA_U1B         A2 BIT2_FA_N00372 BIT2_FA_N00431 $G_DPWR $G_DGND 7408
+  PARAMS:
+ IO_LEVEL=0 MNTYMXDLY=0
X_BIT2_FA_U3B         A2 BIT2_FA_N00372 BIT2_N00601 $G_DPWR $G_DGND 7486
+  PARAMS:
+ IO_LEVEL=0 MNTYMXDLY=0
X_BIT2_FA_U2A         BIT2_FA_N00431 BIT2_FA_N00455 N00449 $G_DPWR $G_DGND 7432
+  PARAMS:
+ IO_LEVEL=0 MNTYMXDLY=0
X_BIT2_FA_U3A         BIT2_N00776 N01557 BIT2_FA_N00372 $G_DPWR $G_DGND 7486
+  PARAMS:
+ IO_LEVEL=0 MNTYMXDLY=0
X_BIT2_FA_U1A         N01557 BIT2_N00776 BIT2_FA_N00455 $G_DPWR $G_DGND 7408
+  PARAMS:
+ IO_LEVEL=0 MNTYMXDLY=0
X_BIT2_U2A         B2 OP2 BIT2_N00776 $G_DPWR $G_DGND 7486 PARAMS:
+ IO_LEVEL=0 MNTYMXDLY=0
X_BIT2_U4         0 0 OP0 OP1 BIT2_N00764 BIT2_N00625 BIT2_N00601 0 0 0 0 0
+  OUTPUT2 M_UN0005 $G_DPWR $G_DGND 74153 PARAMS:
+ IO_LEVEL=0 MNTYMXDLY=0
X_BIT2_U3A         A2 B2 BIT2_N00625 $G_DPWR $G_DGND 7432 PARAMS:
+ IO_LEVEL=0 MNTYMXDLY=0
X_BIT2_U1A         A2 B2 BIT2_N00764 $G_DPWR $G_DGND 7408 PARAMS:
+ IO_LEVEL=0 MNTYMXDLY=0
U_DSTM3         STIM(1,0) $G_DPWR $G_DGND A1 IO_STM STIMULUS=a1
X_BIT7_FA_U1B         A7 BIT7_FA_N00372 BIT7_FA_N00431 $G_DPWR $G_DGND 7408
+  PARAMS:
+ IO_LEVEL=0 MNTYMXDLY=0
X_BIT7_FA_U3B         A7 BIT7_FA_N00372 MSB_SET $G_DPWR $G_DGND 7486 PARAMS:
+ IO_LEVEL=0 MNTYMXDLY=0
X_BIT7_FA_U2A         BIT7_FA_N00431 BIT7_FA_N00455 CARRY $G_DPWR $G_DGND 7432
+  PARAMS:
+ IO_LEVEL=0 MNTYMXDLY=0
X_BIT7_FA_U3A         BIT7_N01709 N00507 BIT7_FA_N00372 $G_DPWR $G_DGND 7486
+  PARAMS:
+ IO_LEVEL=0 MNTYMXDLY=0
X_BIT7_FA_U1A         N00507 BIT7_N01709 BIT7_FA_N00455 $G_DPWR $G_DGND 7408
+  PARAMS:
+ IO_LEVEL=0 MNTYMXDLY=0
X_BIT7_U3A         A7 B7 BIT7_N01527 $G_DPWR $G_DGND 7432 PARAMS:
+ IO_LEVEL=0 MNTYMXDLY=0
X_BIT7_U4         0 0 OP0 OP1 BIT7_N01393 BIT7_N01527 MSB_SET 0 0 0 0 0 OUTPUT7
+  M_UN0006 $G_DPWR $G_DGND 74153 PARAMS:
+ IO_LEVEL=0 MNTYMXDLY=0
X_BIT7_U2A         B7 OP2 BIT7_N01709 $G_DPWR $G_DGND 7486 PARAMS:
+ IO_LEVEL=0 MNTYMXDLY=0
X_BIT7_U1A         A7 B7 BIT7_N01393 $G_DPWR $G_DGND 7408 PARAMS:
+ IO_LEVEL=0 MNTYMXDLY=0
X_BIT7_U5A         N00507 CARRY OVERFLOW $G_DPWR $G_DGND 7486 PARAMS:
+ IO_LEVEL=0 MNTYMXDLY=0
X_BIT1_FA_U1B         A1 BIT1_FA_N00372 BIT1_FA_N00431 $G_DPWR $G_DGND 7408
+  PARAMS:
+ IO_LEVEL=0 MNTYMXDLY=0
X_BIT1_FA_U3B         A1 BIT1_FA_N00372 BIT1_N00601 $G_DPWR $G_DGND 7486
+  PARAMS:
+ IO_LEVEL=0 MNTYMXDLY=0
X_BIT1_FA_U2A         BIT1_FA_N00431 BIT1_FA_N00455 N01557 $G_DPWR $G_DGND 7432
+  PARAMS:
+ IO_LEVEL=0 MNTYMXDLY=0
X_BIT1_FA_U3A         BIT1_N00776 N00397 BIT1_FA_N00372 $G_DPWR $G_DGND 7486
+  PARAMS:
+ IO_LEVEL=0 MNTYMXDLY=0
X_BIT1_FA_U1A         N00397 BIT1_N00776 BIT1_FA_N00455 $G_DPWR $G_DGND 7408
+  PARAMS:
+ IO_LEVEL=0 MNTYMXDLY=0
X_BIT1_U2A         B1 OP2 BIT1_N00776 $G_DPWR $G_DGND 7486 PARAMS:
+ IO_LEVEL=0 MNTYMXDLY=0
X_BIT1_U4         0 0 OP0 OP1 BIT1_N00764 BIT1_N00625 BIT1_N00601 0 0 0 0 0
+  OUTPUT1 M_UN0007 $G_DPWR $G_DGND 74153 PARAMS:
+ IO_LEVEL=0 MNTYMXDLY=0
X_BIT1_U3A         A1 B1 BIT1_N00625 $G_DPWR $G_DGND 7432 PARAMS:
+ IO_LEVEL=0 MNTYMXDLY=0
X_BIT1_U1A         A1 B1 BIT1_N00764 $G_DPWR $G_DGND 7408 PARAMS:
+ IO_LEVEL=0 MNTYMXDLY=0
X_BIT0_FA_U1B         A0 BIT0_FA_N00372 BIT0_FA_N00431 $G_DPWR $G_DGND 7408
+  PARAMS:
+ IO_LEVEL=0 MNTYMXDLY=0
X_BIT0_FA_U3B         A0 BIT0_FA_N00372 BIT0_N00601 $G_DPWR $G_DGND 7486
+  PARAMS:
+ IO_LEVEL=0 MNTYMXDLY=0
X_BIT0_FA_U2A         BIT0_FA_N00431 BIT0_FA_N00455 N00397 $G_DPWR $G_DGND 7432
+  PARAMS:
+ IO_LEVEL=0 MNTYMXDLY=0
X_BIT0_FA_U3A         BIT0_N00776 OP2 BIT0_FA_N00372 $G_DPWR $G_DGND 7486
+  PARAMS:
+ IO_LEVEL=0 MNTYMXDLY=0
X_BIT0_FA_U1A         OP2 BIT0_N00776 BIT0_FA_N00455 $G_DPWR $G_DGND 7408
+  PARAMS:
+ IO_LEVEL=0 MNTYMXDLY=0
X_BIT0_U2A         B0 OP2 BIT0_N00776 $G_DPWR $G_DGND 7486 PARAMS:
+ IO_LEVEL=0 MNTYMXDLY=0
X_BIT0_U4         0 0 OP0 OP1 BIT0_N00764 BIT0_N00625 BIT0_N00601 MSB_SET 0 0 0
+  0 OUTPUT0 M_UN0008 $G_DPWR $G_DGND 74153 PARAMS:
+ IO_LEVEL=0 MNTYMXDLY=0
X_BIT0_U3A         A0 B0 BIT0_N00625 $G_DPWR $G_DGND 7432 PARAMS:
+ IO_LEVEL=0 MNTYMXDLY=0
X_BIT0_U1A         A0 B0 BIT0_N00764 $G_DPWR $G_DGND 7408 PARAMS:
+ IO_LEVEL=0 MNTYMXDLY=0
U_DSTM10         STIM(1,0) $G_DPWR $G_DGND B4 IO_STM STIMULUS=b4
U_DSTM13         STIM(1,0) $G_DPWR $G_DGND A6 IO_STM STIMULUS=a6
U_DSTM1         STIM(1,0) $G_DPWR $G_DGND A0 IO_STM STIMULUS=a0
U_DSTM8         STIM(1,0) $G_DPWR $G_DGND B3 IO_STM STIMULUS=b3
U_DSTM19         STIM(1,0) $G_DPWR $G_DGND OP2 IO_STM STIMULUS=op2clk
U_DSTM14         STIM(1,0) $G_DPWR $G_DGND B6 IO_STM STIMULUS=b6
U_DSTM4         STIM(1,0) $G_DPWR $G_DGND B1 IO_STM STIMULUS=b1
U_DSTM18         STIM(1,0) $G_DPWR $G_DGND OP1 IO_STM STIMULUS=op1clk
U_DSTM6         STIM(1,0) $G_DPWR $G_DGND B2 IO_STM STIMULUS=b2
U_DSTM11         STIM(1,0) $G_DPWR $G_DGND A5 IO_STM STIMULUS=a5
U_DSTM2         STIM(1,0) $G_DPWR $G_DGND B0 IO_STM STIMULUS=b0
U_DSTM17         STIM(1,0) $G_DPWR $G_DGND OP0 IO_STM STIMULUS=op0clk
U_DSTM15         STIM(1,0) $G_DPWR $G_DGND A7 IO_STM STIMULUS=a7
X_U1A         N04479 N04472 N04486 $G_DPWR $G_DGND 7432 PARAMS:
+ IO_LEVEL=0 MNTYMXDLY=0
X_U1B         N04444 N04451 N04479 $G_DPWR $G_DGND 7432 PARAMS:
+ IO_LEVEL=0 MNTYMXDLY=0
X_U1C         N04460 N04465 N04472 $G_DPWR $G_DGND 7432 PARAMS:
+ IO_LEVEL=0 MNTYMXDLY=0
X_U1D         OUTPUT0 OUTPUT1 N04444 $G_DPWR $G_DGND 7432 PARAMS:
+ IO_LEVEL=0 MNTYMXDLY=0
X_U2A         OUTPUT2 OUTPUT3 N04451 $G_DPWR $G_DGND 7432 PARAMS:
+ IO_LEVEL=0 MNTYMXDLY=0
X_U2B         OUTPUT4 OUTPUT5 N04460 $G_DPWR $G_DGND 7432 PARAMS:
+ IO_LEVEL=0 MNTYMXDLY=0
X_U2C         OUTPUT6 OUTPUT7 N04465 $G_DPWR $G_DGND 7432 PARAMS:
+ IO_LEVEL=0 MNTYMXDLY=0
X_U3A         N04486 ZERO $G_DPWR $G_DGND 7404 PARAMS:
+ IO_LEVEL=0 MNTYMXDLY=0
